US09428477B2
Production of 1-((E)-2-Decenoyl)-4-phenylpiperazine [Compound 25]
The same procedures as in Example 1 were carried out using (E)-2-decenoic acid and 1-phenylpiperazine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 1-((E)-2-Decenoyl)-4-phenylpiperazine | C(\C=C\CCCCCCC)(=O)N1CCN(CC1)C1=CC=CC=C1 | C20H30N2O
